US06057337
(1) 1-[2-(2-Hydroxyethyl)piperidino]tetradecan-1-one
Triethylamine (0.79 ml) and myristoyl chloride (1.270 g) were added to a solution of 2-(2-hydroxyethyl)piperidine (0.660 g) in methylene chloride (7 ml) under argon gas atmosphere while being cooled with ice. After being stirred for 2 hours, the reaction mixture was diluted with chloroform, washed with 1N hydrochloric acid, saturated sodium hydrogencarbonate aqueous solution and saturated brine successively, dried over sodium sulfate anhydride, and concentrated. The residue was purified by silica gel column chromatography (silica gel 50 g, chloroform:methanol=60:1), thereby yielding the entitled compound (1.664 g) as white solid.

reactant | Triethylamine | 0.79 ml | C(C)N(CC)CC | C6H15N
reactant | myristoyl chloride | 1.270 g | C(CCCCCCCCCCCCC)(=O)Cl | C14H27ClO
reactant | 2-(2-hydroxyethyl)piperidine | 0.660 g | OCCC1NCCCC1 | C7H15NO
solvent | methylene chloride | 7 ml | C(Cl)Cl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-[2-(2-Hydroxyethyl)piperidino]tetradecan-1-one | 1.664 g | OCCC1N(CCCC1)C(CCCCCCCCCCCCC)=O | C21H41NO2
